US04423216
300 g of urea prills and 495 g of N-methylpyrrolidone were charged into a 1-liter glass reactor fitted with stirrer, condenser and thermometer. The reaction mixture was heated with a mantle and maintained at reflux for a 2-hour period during which the reaction temperature increased from 185° to 212° C. On cooling, the reaction mixture solidified at about 35° C. The reaction mixture was reheated to about 160° C. to make it stirrable, cooled to 40°-50° C. and filtered. The cake set up in the filter funnel and had to be broken up. On washing with water, the filter cake solidified again into a hard cement-like solid with release of some heat. The solid was broken up, washed further, and dried giving 129 g (60% yield) of impure cyanuric acid containing 5.6% ammelide and 0.4% ammeline.

reactant | urea | 300 g | NC(=O)N | CH4N2O
reactant | ammeline | C1(=NC(=O)N=C(N1)N)N | C3H5N5O
reactant | N-methylpyrrolidone | 495 g | CN1C(CCC1)=O | C5H9NO
product | cyanuric acid | 129 g, 60% yield | N1C(=O)NC(=O)NC1=O | C3H3N3O3
